US07507726B2
4-(3-Buten-1-yl)-6-(dimethylamino)-2-hydrazino-1,3,5-triazine
To a cyanuric chloride (1.07 g, 5.80 mmol) in anhydrous benzene (10.7 mL) was added at 0° C. dropwise a solution of 3-butenylmagnesium bromide (0.5M in THF, 12.8 mL, 6.38 mmol). The resulting mixture was stirred at 0° C. for 3 hrs. To the mixture were added 1,4-dioxane (10 mL), DIPEA (1.1 mL), followed by addition of dimethylamine (2.0M in MeOH, 3.2 mL, 6.38 mmol) at 0° C. The mixture was stirred and allowed to warm up to room temperature over 2 hours. Finally to it was added hydrazine hydrate (7.0 mL) at room temperature. The mixture was stirred at room temperature overnight. Then the volatiles were evaporated in vacuo. The residue was purified by HPLC to provide the title compound as a white solid. MH+209.

reactant | cyanuric chloride | 5.80 mmol, 1.07 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 3-butenylmagnesium bromide | 6.38 mmol, 0.5M, 12.8 mL | C(CC=C)[Mg]Br
reactant | DIPEA | 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylamine | 6.38 mmol, 2.0M, 3.2 mL | CNC | C2H7N
reactant | hydrazine hydrate | 7.0 mL | O.NN
solvent | benzene | 10.7 mL | C1=CC=CC=C1 | C6H6
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(3-Buten-1-yl)-6-(dimethylamino)-2-hydrazino-1,3,5-triazine | C(CC=C)C1=NC(=NC(=N1)N(C)C)NN | C9H16N6
